US08809527B2
Method XV, Part 1: 4-Amino-6-chloro-2-methylthio-5-nitropyrimidine
To a solution of 4,6-dichloro-2-(methylthio)-5-nitropyrimidine (327 mg, 1.36 mmol) in THF (5.4 mL) at −10° C. was added Et3N (474 μL, 3.40 mmol) followed by a solution of NH3 (2.0 M in MeOH, 750 μL, 1.5 mmol). The mixture was stirred while warming to 0° C. for 1.5 h (LC/MS indicated consumption of starting materials.). The reaction mixture was taken forward without work-up.

reactant | 4,6-dichloro-2-(methylthio)-5-nitropyrimidine | 1.36 mmol, 327 mg | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)SC | C5H3Cl2N3O2S
reactant | Et3N | 3.40 mmol, 474 μL | CCN(CC)CC | C6H15N
reactant | NH3 | 1.5 mmol, 2.0 M, 750 μL | N | H3N
solvent | THF | 5.4 mL | C1CCOC1 | C4H8O
product | 4-Amino-6-chloro-2-methylthio-5-nitropyrimidine | NC1=NC(=NC(=C1[N+](=O)[O-])Cl)SC | C5H5ClN4O2S
